US07705053B2
Production of 3-[(E)-2-(4-chlorophenyl)-vinyl]-4-methoxy-N-(1-methoxymethyl-propyl)-benzamide (Compound 2-2-12)
The captioned compound was synthesized from 3-[(E)-2-(4-chlorophenyl)vinyl]-4-methoxy-benzoic acid and 2-amino-1-methoxybutane in accordance with the same procedure as in the manufacturing method described in step C of Example 1-2-3.

reactant | 3-[(E)-2-(4-chlorophenyl)vinyl]-4-methoxy-benzoic acid | ClC1=CC=C(C=C1)/C=C/C=1C=C(C(=O)O)C=CC1OC | C16H13ClO3
reactant | 2-amino-1-methoxybutane | NC(COC)CC | C5H13NO
product | 3-[(E)-2-(4-chlorophenyl)-vinyl]-4-methoxy-N-(1-methoxymethyl-propyl)-benzamide | ClC1=CC=C(C=C1)/C=C/C=1C=C(C(=O)NC(CC)COC)C=CC1OC | C21H24ClNO3
